US09255097B2
Preparation 18A: {1-[5-benzofuran-5-yl-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester
A mixture of {1-[5-chloro-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester (200 mg, 0.45 mmol), benzofuran-5-boronic acid (120 mg, 0.68 mmol), Pd(PPh3)4 (26 mg, 0.05 mmol) and 2M Na2CO3 (0.9 mL) in 1,4-dioxane (200 mL) was refluxed overnight under N2 atmosphere. The reaction mixture was diluted with water and extracted with EA (3×). The combined organics were washed with brine, dried (Na2SO4) and concentrated. The residue was purified by silica chromatography to give 100 mg of the title product (42%). [M+H] Calc'd for C30H30FN5O4, 543. Found, 543.

reactant | {1-[5-chloro-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6-dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 0.45 mmol, 200 mg | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)Cl)=O)C)=O | C22H25ClFN5O3
reactant | benzofuran-5-boronic acid | 0.68 mmol, 120 mg | O1C=CC2=C1C=CC(=C2)B(O)O | C8H7BO3
reactant | Na2CO3 | 2M, 0.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.05 mmol, 26 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | {1-[5-benzofuran-5-yl-4-(4-cyano-3-fluoro-phenyl)-1-methyl-6-oxo-1,6dihydro-pyrimidin-2-yl]-piperidin-4-yl}-carbamic acid tert-butyl ester | 100 mg, 42% | C(C)(C)(C)OC(NC1CCN(CC1)C=1N(C(C(=C(N1)C1=CC(=C(C=C1)C#N)F)C=1C=CC=2C1C=COC2)=O)C)=O | C30H30FN5O4
